US09447090B2
To a mixture of 5.8 mg of 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid, 7.1 mg of tert-butyl (3R)-3-amino-4-phenylbutanoate, 2.7 mg of 1-hydroxybenzotriazole, 700 μl of DMF, and 19 μl of diisopropylethylamine was added 50 mg of polystyrene N-cyclohexylcarbodiimide-N′-propyloxymethyl (PS-Carbodiimide manufactured by Biotage), followed by stirring at room temperature for 20 hours. To the reaction mixture were added 50 mg of macroporous triethylammonium methylpolystyrene carbonate (MP-Carbonate manufactured by Biotage) and 50 mg of polystyrene methyl isocyanate (PS-Isocyanate manufactured by Biotage), followed by stirring at room temperature for 2 hours. The resin was removed by filtration, the filtrate was concentrated under reduced pressure, and to the obtained residue were added 100 μl of 1,4-dioxane and 200 μl of a 4 M hydrogen chloride/1,4-dioxane solution, followed by stirring at room temperature for 20 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by preparative HPLC to obtain 5.6 mg of (3R)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-phenylbutanoic acid.

reactant | 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 5.8 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)O | C16H20N2O3
reactant | tert-butyl (3R)-3-amino-4-phenylbutanoate | 7.1 mg | N[C@@H](CC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C14H21NO2
reactant | 1-hydroxybenzotriazole | 2.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 19 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Carbodiimide | N=C=N | CH2N2
reactant | triethylammonium | 50 mg | C(C)[NH+](CC)CC
reactant | Carbonate | C([O-])([O-])=O
reactant | Isocyanate | [N-]=C=O
solvent | DMF | 700 μl | CN(C)C=O | C3H7NO
product | (3R)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-4-phenylbutanoic acid | 5.6 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CC(=O)O)CC2=CC=CC=C2 | C26H31N3O4
